US06320059B1
Preparation of N-(1-Hydroxy-2,2,2-trifluoroethyl)-4-chlorobenzamide
A solution of 4-chlorobenzamide (22.0 g, 0.141 mol) and trifluoroacetaldehyde ethyl hemiacetal (25.0 g as is, 22.5 g real, 0.156 mol) in dioxane (200 mL) is treated with anhydrous sodium sulfate (10 g, to dry the 10% water in the hemiacetal) and refluxed for 60 hours. The solids are filtered and the filtrate is evaporated to a solid. The solids are dissolved in about 200 mL of 15% ethyl acetate in heptane. Unreacted starting material (5.6 g) crystallizes out and is filtered. The title product is obtained from the mother liquors as a white crystalline solid (22.1 g, 82.9% based on recovery of starting material): mp 139.5-140.5° C.; characterized by 1H and 19F NMR and Mass spectra. 1H NMR (DMSO-d6) δ 9.45 (d, J=8.7 Hz, NH), 7.93, 7.54 (AB with fine splitting, J=8.4 Hz, ArH), 7.54 (broad s, OH), 5.90 (m, J=8.7, 2.9, 5.8 Hz, CH); 19F NMR δ −80.3 (d, J=5 Hz).

reactant | 4-chlorobenzamide | 0.141 mol, 22.0 g | ClC1=CC=C(C(=O)N)C=C1 | C7H6ClNO
reactant | trifluoroacetaldehyde ethyl hemiacetal | 0.156 mol, 25.0 g | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | N-(1-Hydroxy-2,2,2-trifluoroethyl)-4-chlorobenzamide | OC(C(F)(F)F)NC(C1=CC=C(C=C1)Cl)=O | C9H7ClF3NO2
